US04562281
To a 2-liter four-necked flask equipped with a thermometer, stirring apparatus, condenser and dropping funnel were added 340.51 g (1.0 mole) of 2,2'-methylenebis(6-tert-butyl-4-methylphenol), 72.06 g (1.0 mole) of acrylic acid, 500 g of toluene and 209.47 g (2.07 moles) of triethylamine. After replacing the air in the container with nitrogen, 105.8 g (0.69 mole) of phosphorus oxychloride was added dropwise with stirring. After completion of the dropwise addition, the reaction solution was kept at 80° C. for 1 hour. Thereafter, the organic layer was washed with water until it became neutral, and toluene was removed under reduced pressure. The residue was then recrystallized from n-hexane to obtain 374.8 g of a white crystalline 2,2'-methylenebis(6-tert-butyl-4-methylphenol) monoacrylate having a melting point of 132° to 134° C. Yield, 95%.

reactant | 2,2'-methylenebis(6-tert-butyl-4-methylphenol) | 1.0 mole, 340.51 g | C(C1=C(C(=CC(=C1)C)C(C)(C)C)O)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C23H32O2
reactant | acrylic acid | 1.0 mole, 72.06 g | C(C=C)(=O)O | C3H4O2
reactant | triethylamine | 2.07 moles, 209.47 g | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 0.69 mole, 105.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 500 g | C1(=CC=CC=C1)C | C7H8
product | 2,2'-methylenebis(6-tert-butyl-4-methylphenol) monoacrylate | 374.8 g | C(C=C)(=O)OC1=C(C=C(C=C1C(C)(C)C)C)CC1=C(C(=CC(=C1)C)C(C)(C)C)O | C26H34O3
